US08912188B2
To a solution of methyl 3-(isopropyl(methyl)amino)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate (150 mg, 0.37 mmol) in dioxane (5 mL) was added 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]thiazole (288 mg, 1.1 mmol), K3PO4 (234 mg, 1.1 mmol), Pd(PPh3)4 (21 mg, 0.018 mmol) and water (3 drops). The resulting solution was stirred for 1 h at 90° C. and then concentrated in vacuo to give a residue, which was purified by silica gel column chromatography eluting with 2%-5% ethyl acetate in petroleum ether to afford methyl 2-(benzo[d]thiazol-5-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate as a yellow solid (120 mg, 83%).

reactant | methyl 3-(isopropyl(methyl)amino)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | 0.37 mmol, 150 mg | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F)C | C15H16F3N3O5S
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]thiazole | 1.1 mmol, 288 mg | CC1(OB(OC1(C)C)C=1C=CC2=C(N=CS2)C1)C | C13H16BNO2S
reactant | K3PO4 | 1.1 mmol, 234 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | water | 3 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.018 mmol, 21 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(benzo[d]thiazol-5-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 120 mg, 83% | S1C=NC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1N=C2N(C)C(C)C)C(=O)OC | C21H20N4O2S
